US08802659B2
To a solution of methyl 1-((6-((trans)-4-tert-butylcyclohexyloxy)-5-fluoronaphthalen-2-yl)methyl)azetidine-3-carboxylate 40 mg, 0.09 mmol) in EtOH (3 mL) was added aqueous NaOH (2 mL, 1%, 5.0 eq.) and refluxed for 1 h. Then the reaction was cooled to 0° C., the pH of the solution was adjusted to 6 with 1M HCl, concentrated and the residue was washed with DCM and water, dried in vacuum to give product 1-((6-((trans)-4-tert-butylcyclohexyloxy)-5-fluoronaphthalen-2-yl)methyl)azetidine-3-carboxylic acid (30 mg, 78%) as a white solid. EDI-MS (M+1)+: 414.0. HPLC: 91.27%. 1H NMR (400 MHz, CD3OD) δ 8.09-8.01 (m, 2H), 7.74-7.71 (m, 1H), 7.59-7.58 (m, 1H), 7.48 (t, 1H), 4.57 (s, 2H), 4.38-4.32 (m, 5H), 3.76-3.70 (m, 1H), 2.21-2.19 (m, 2H), 1.91-1.88 (m, 2H), 1.53-1.44 (m, 2H), 1.24-1.10 (m, 3H), 0.90 (s, 9H).

reactant | methyl 1-((6-((trans)-4-tert-butylcyclohexyloxy)-5-fluoronaphthalen-2-yl)methyl)azetidine-3-carboxylate | 0.09 mmol, 40 mg | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C(=C2C=CC(=CC2=CC1)CN1CC(C1)C(=O)OC)F | C26H34FNO3
reactant | NaOH | 2 mL, 5.0 eq. | [OH-].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | EtOH | 3 mL | CCO | C2H6O
product | 1-((6-((trans)-4-tert-butylcyclohexyloxy)-5-fluoronaphthalen-2-yl)methyl)azetidine-3-carboxylic acid | 30 mg, 78% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C(=C2C=CC(=CC2=CC1)CN1CC(C1)C(=O)O)F | C25H32FNO3
